US09278931B2
B) 2-(4-{trans-2-[(cyclopropylmethyl)amino]cyclopropyl}phenyl)-1H-isoindole-1,3(2H)-dione hydrochloride
tert-Butyl(cyclopropylmethyl){trans-2-[4-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)phenyl]cyclopropyl}carbamate (252.7 mg) was dissolved in 4N hydrochloric acid/cyclopentyl methyl ether solution (3 mL), and the mixture was stirred at room temperature for 2 hr. The solvent was evaporated under reduced pressure. The residue was recrystallized from methanol/diisopropyl ether to give the title compound (176.2 mg).

reactant | tert-Butyl(cyclopropylmethyl){trans-2-[4-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)phenyl]cyclopropyl}carbamate | 252.7 mg | C(C)(C)(C)OC(N([C@H]1[C@@H](C1)C1=CC=C(C=C1)N1C(C2=CC=CC=C2C1=O)=O)CC1CC1)=O | C26H28N2O4
reactant | hydrochloric acid cyclopentyl methyl ether | 4N, 3 mL | Cl.COC1CCCC1
product | 2-(4-{trans-2-[(cyclopropylmethyl)amino]cyclopropyl}phenyl)-1H-isoindole-1,3(2H)-dione hydrochloride | 176.2 mg | Cl.C1(CC1)CN[C@H]1[C@@H](C1)C1=CC=C(C=C1)N1C(C2=CC=CC=C2C1=O)=O | InChI=1S/C21H20N2O2.ClH/c24-20-16-3-1-2-4-17(16)21(25)23(20)15-9-7-14(8-10-15)18-11-19(18)22-12-13-5-6-13;/h1-4,7-10,13,18-19,22H,5-6,11-12H2;1H/t18-,19+;/m0./s1
